### PR TITLE
Add Erdős Problem 356 (many distinct consecutive sums in an increasing sequence), link the formal proof

### LINKED ISSUE #6173: Erdős Problem 356
### What is the Erdős problem?

https://www.erdosproblems.com/356

Is there some $c>0$ such that, for all sufficiently large $n$, there exist integers $a_1<\cdots<a_k\leq n$ such that there are at least $cn^2$ distinct integers of the form $\sum_{u\leq i\leq v}a_i$?

Status: proved (Lean). Solved by Beker; a formal proof exists in plby/lean-proofs (`Erdos356.erdos_356`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6173.

### What changed
Adds `FormalConjectures/ErdosProblems/356.lean` with `consecutiveSums a` (sums of nonempty consecutive blocks of a finite sequence) and:
- `erdos_356` (`research solved`, `answer(True)`): there is `c > 0` such that for all large `n` some `a₁ < ⋯ < a_k ≤ n` has at least `c n²` distinct consecutive sums (Beker [Be23b]). Linked to plby/lean-proofs `Erdos356.erdos_356` (Codex and GPT-5.6 Sol; 2 Mathlib-only files).
- `erdos_356.variants.consecutive` (`research open`): the Erdős–Graham question on runs of `cn` consecutive representable integers `> n`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos356.erdos_356` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (the definitions agree up to `univ ×ˢ univ = univ`):

<details>
<summary>Bridge</summary>

```lean
open Filter

lemma consecutiveSums_eq {k : ℕ} (a : Fin k → ℕ) :
    Erdos356.consecutiveSums a = Erdos356Plby.consecutiveSums a := by
  unfold Erdos356.consecutiveSums Erdos356Plby.consecutiveSums
  congr 1

theorem erdos_356_bridge : type_of% Erdos356.erdos_356 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨c, hc, h⟩ := Erdos356Plby.erdos_356
  refine ⟨c, hc, h.mono fun n ⟨k, a, hmono, hbound, hcard⟩ => ⟨k, a, hmono, hbound, ?_⟩⟩
  rw [consecutiveSums_eq]
  exact hcard
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«356»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/356.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+
+open Filter
+
+namespace Erdos356
+
+/-- The set of sums $\sum_{u\leq i\leq v}a_i$ of nonempty consecutive blocks of a finite
+sequence `a`. -/
+def consecutiveSums {k : ℕ} (a : Fin k → ℕ) : Finset ℕ :=
+  (Finset.univ.filter fun p : Fin k × Fin k => p.1 ≤ p.2).image
+    fun p => ∑ i ∈ Finset.Icc p.1 p.2, a i
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/356.lean:42]: consecutiveSums is the second ad hoc definition after 34.lean; a generic consecutiveSums (a : Fin k → M) in ForMathlib

File: FormalConjectures/ErdosProblems/356.lean [hunk 2]
```diff
@@ -0,0 +1,77 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/356.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
